US06147061
4-Benzoylbenzyl bromide (2.75 grams, 10.0 mmole) and triethylsilane (2.33 grams, 20 mmole) in trifluoroacetic acid (4.56 grams, 40 mmole) were warmed to 60° C. for 18 hours. The cooled mixture was diluted with ethyl acetate (50 ml) and carefully washed with saturated sodium bicarbonate solution (2×50 ml). After drying with magnesium sulfate, the extract was filtered and concentrated. The residue was chromatographed (0.5:99.5 to 2:98--ethyl acetate:hexane) to give 1.37 grams (52%) of 4-benzylbenzyl bromide as a colorless oil.

reactant | 4-Benzoylbenzyl bromide | 10.0 mmole, 2.75 grams | C(C1=CC=CC=C1)(=O)C1=CC=C(CBr)C=C1 | C14H11BrO
reactant | triethylsilane | 20 mmole, 2.33 grams | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 40 mmole, 4.56 grams | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-benzylbenzyl bromide | 1.37 grams, 52% | C(C1=CC=CC=C1)C1=CC=C(CBr)C=C1 | C14H13Br
